US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-phenylurea
4-(4-Aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline (600 mg) was suspended in toluene (15 ml), and the suspension was heated to reflux for dissolution, after which phenyl isocyanate (292μl) was added dropwise and the mixture was heated to reflux for 30 minutes. After cooling, the precipitated solid was filtered out, washed with ether and ethyl acetate and dried to obtain 760 mg of the title compound.

reactant | 4-(4-Aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline | 600 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
reactant | phenyl isocyanate | 292μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-phenylurea | 760 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C26H22N4O4
